US07576094B2
Step 2: 7,8-Dimethyl-5[(Z)-2-quinolin-2-ylvinyl] 3,4-dihydrospiro-[chromene-2,1′-cyclobutan]-6-ol
MS (m/z)=404 (M+H+). To a suspension of 0.35 g of triphenyl(quinolin-2-ylmethyl)phosphonium bromide in 5 mL of THF was added 3 mL of 0.5 M sodium methoxide at 0° C under Argon, followed by a solution of 6-Hydroxy-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-5-carbaldehyde 0.18 g) in 10 mL of THF. The solution was stirred for 1 hr at 0° C., warmed to room temperature, and stirred for 2 hrs. The tetrahydrofuran was evaporated, and the residue was partitioned between EtOAc and H2O, washed with brine, then dried over Na2SO4. The crude material was purified on a silica column eluting with 1:8 EtOAc/Hexane. 50 mg of 7,8-dimethyl-5-[2-quinolin-2-ylvinyl] 3,4-dihydrospiro-[chromene-2,1′-cyclobutan]-6-ol which was precipitated with hexane. 1H-NMR (300 MHz, CDCl3) δ=1.70-1-76 (m, 3H), 1.78-1.97 (m, 5H), 2.09-2.30 (m, 8H), 2.81-2.85 (t, 2H), 5.70 (brs, 1H), 7.18-7.24 (d, 1H), 7.50-7.56 (m, 2H), 7.71-7.82 (m, 3H), 8.08-8.13 (m, 2H) ppm. 13C-NMR (75 MHz, CDCl3) δ=12.24, 12.34, 12.60, 21.25, 29.31, 34.10, 76.51, 117.47, 119.17, 119.65, 112.33, 126.29, 126.46, 127.45, 127.55, 129.23, 129.88, 130.01, 133.47, 136.49, 145.10, 155.55 ppm. MS (m/z)=372 (M+H+).

reactant | triphenyl(quinolin-2-ylmethyl)phosphonium bromide | 0.35 g | [Br-].C1(=CC=CC=C1)[P+](CC1=NC2=CC=CC=C2C=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium methoxide | 0.5 M, 3 mL | C[O-].[Na+]
reactant | 6-Hydroxy-7,8-dimethyl-3,4-dihydrospiro[chromene-2,1′-cyclobutane]-5-carbaldehyde | 0.18 g | OC1=C(C=2CCC3(CCC3)OC2C(=C1C)C)C=O | C15H18O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7,8-Dimethyl-5[(Z)-2-quinolin-2-ylvinyl] 3,4-dihydrospiro-[chromene-2,1′-cyclobutan]-6-ol | CC1=C(C(=C2CCC3(CCC3)OC2=C1C)\C=C/C1=NC2=CC=CC=C2C=C1)O | C25H25NO2
